US07338958B2
i) Production of (R)-2-[(5-Bromo-2-chloropyrimidin-4-yl)amino]propan-1-ol
A solution of 22.8 g (100 mmol) of 5-bromo-2,4-dichloropyrimidine in 100 ml of acetonitrile is mixed at 0° C. first with 17.0 ml (125 mmol) of triethylamine and then with 9.4 g (125 mmol) of D-alaninol. The batch is stirred overnight at room temperature. The precipitate that is formed is suctioned off, washed with water, and completely dried. 21.5 g (81 mmol, corresponding to 81% of theory) of the product is obtained.

reactant | 5-bromo-2,4-dichloropyrimidine | 100 mmol, 22.8 g | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | triethylamine | 125 mmol, 17.0 ml | C(C)N(CC)CC | C6H15N
reactant | D-alaninol | 125 mmol, 9.4 g | N[C@H](C)CO | C3H9NO
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | (R)-2-[(5-Bromo-2-chloropyrimidin-4-yl)amino]propan-1-ol | BrC=1C(=NC(=NC1)Cl)N[C@@H](CO)C | C7H9BrClN3O
